US07777042B2
(S)-1-(3-Methoxy-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(indol-3-yl)-1-(naphthalen-2-ylcarbamoyl)-ethyl]-amide
To a solution of 0.78 g (2.60 mmol) of (S)-1-(3-methoxy-benzenesulfonyl)-piperidine-2-carboxylic acid and 1.03 g (3.12 mmol) of (S)-2-amino-3-(1-indol-3-yl)-naphthalen-2-yl-propionamide in dichloromethane (100 ml) was added 0.16 g (1.30 mmol) DMAP followed by addition of 4-methylmorpholine 1.37 g (13.54 mmol), HOBT 0.84 g (6.25 mmol) and EDCI 1.39 g (7.29 mmol). The mixture was stirred at room temperature overnight. The reaction mixture was then washed with water, dried (sodium sulfate). Chromatography on silica gel eluting with 50% ethyl acetate/heptane proved 1.2 g (1.96 mmol) of the title compound. 1H NMR (300 MHz, CDCl3): 1.34-1.01 (m, 5H); 2.07 (bd, 1H); 2.21 (dd, 1H); 3.43-3.48 (m, 3H); 3.83 (s, 3H); 4.34 (b, 1H); 4.98 (q, 1H); 6.98 (d, 1H); 7.09-7.47 (m, 11H); 7.68-7.80 (m, 4H); 8.15 (s, 1H); 8.21 (s, 1H); 8.40 (s, 1H).

reactant | (S)-1-(3-methoxy-benzenesulfonyl)-piperidine-2-carboxylic acid | 2.60 mmol, 0.78 g | COC=1C=C(C=CC1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O | C13H17NO5S
reactant | (S)-2-amino-3-(1-indol-3-yl)-naphthalen-2-yl-propionamide | 3.12 mmol, 1.03 g | C1=CC=C2C=C(C=CC2=C1)NC(=O)[C@H](CC3=CNC4=CC=CC=C43)N | C21H19N3O
reactant | 4-methylmorpholine | 13.54 mmol, 1.37 g | CN1CCOCC1 | C5H11NO
reactant | HOBT | 6.25 mmol, 0.84 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 7.29 mmol, 1.39 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | DMAP | 1.30 mmol, 0.16 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-1-(3-Methoxy-benzenesulfonyl)-piperidine-2-carboxylic acid [(S)-2-(indol-3-yl)-1-(naphthalen-2-ylcarbamoyl)-ethyl]-amide | 1.96 mmol, 1.2 g | N1C=C(C2=CC=CC=C12)C[C@@H](C(NC1=CC2=CC=CC=C2C=C1)=O)NC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)OC | C34H34N4O5S
